US07199135B2
N-{3-[1-(3-{[bis(4-fluorophenyl)(hydroxy)acetyl]amino}propyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide:
Example 156 was prepared from bis(4-fluorophenyl)(hydroxy)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 12: 1H NMR (400 MHz, CDCl3) δ 9.44 (s, br, 1 H), 8.18 (s, 1 H), 7.62–7.48 (m, 4 H), 7.32 (s, 1 H), 7.07–7.00 (m, 1 H), 7.00–6.89 (m, 4 H), 6.72–6.53 (m, 1 H), 5.96–5.71 (br, 1 H), 3.55–3.44 (m, 2 H), 3.14–3.02 (m, 2 H), 2.83–2.66 (m, 1 H), 2.63–2.49 (m, 2 H), 2.39–2.22 (m, 1 H), 2.29 (s, 3 H), 2.17–1.98 (m, 4 H), 1.78–1.59 (m, 4 H), 0.92 (d, 6 H, J=6.8 Hz); ESMS m/e: 564.4 (M+H)+.

reactant | bis(4-fluorophenyl)(hydroxy)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)(O)C1=CC=C(C=C1)F | C14H10F2O3
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-{3-[1-(3-{[bis(4-fluorophenyl)(hydroxy)acetyl]amino}propyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)(O)C1=CC=C(C=C1)F | C33H39F2N3O3
